### PR TITLE
finite transition kernels

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

proof of stability of composition of subprobability kernels @CohenCyril 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by affeldt-aist** [comment]
@CohenCyril Changelog added

File: theories/kernel.v [hunk 1]
```diff
@@ -1098,3 +1254,536 @@ by apply: eq_integral => z _; apply/cvg_lim => //; exact: cvg_nnsfun_approx.
...
+by rewrite /mseries nneseries_recl// eseries0 ?adde0// => -[|].
+Qed.
+
+Import HBNNSimple.
+
+(* [Lemma 14.20, Klenke 2014]  *)
+Lemma measurable_kfcomp d1 d2 (T1 : measurableType d1) (T2 : measurableType d2)
+    (R : realType) (k : R.-ftker T1 ~> T2)
+    (f : T1 * T2 -> \bar R) : measurable_fun [set: T1 * T2] f ->
+  (forall t, 0 <= f t) ->
```
Comment (hoheinzollern) [inline theories/kernel.v:1288]: Is there a reason for not using the type `{nnfun T1 * T2 >-> \bar R}`?

File: theories/kernel.v [hunk 2]
```diff
@@ -1098,3 +1254,536 @@ by apply: eq_integral => z _; apply/cvg_lim => //; exact: cvg_nnsfun_approx.
...
+  measurable_fun [set: T1] (kfcomp k f).
+Proof.
+move=> mf f0.
+rewrite /kfcomp.
+pose I (f : T1 * T2 -> \bar R) x := \int[k x]_y f (x, y).
+pose g (A1 : set T1) (A2 : set T2) : T1 * T2 -> \bar R :=
+  EFin \o \1_(A1 `*` A2).
```
Comment (hoheinzollern) [inline theories/kernel.v:1295]: This looks like an extractable lemma

File: theories/kernel.v [hunk 3]
```diff
@@ -1098,3 +1254,536 @@ by apply: eq_integral => z _; apply/cvg_lim => //; exact: cvg_nnsfun_approx.
...
+      \int[k x]_y (fun t => limn (g' ^~ t)) y); last first.
+    apply: eq_integral => y _.
+    by apply/esym/cvg_lim => //; exact: cvg_nnsfun_approx.
+  apply: cvg_monotone_convergence => //.
+  - by move=> n; apply/measurable_EFinP; exact: measurableT_comp.
+  - by move=> n y _; rewrite /= lee_fin.
+  - by move=> y _ a b ab/=; rewrite lee_fin; exact/lefP/nd_nnsfun_approx.
+apply: (emeasurable_fun_cvg (fun n => I (EFin \o f_ n))).
+  move=> m.
+  pose D := [set A | measurable A /\ measurable_fun setT (I (EFin \o \1_A))].
```
Comment (hoheinzollern) [inline theories/kernel.v:1321]: Should this go top-level?

**Review by hoheinzollern — APPROVED** [review]
Looks good to me

File: theories/kernel.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/kernel.v:1288]: That would indeed do the job but when we use the lemma in its current form we can pass any function to it, not necessarily one that is non-negative by typing, which looks more practical in the current state of affairs.

**Comment by affeldt-aist** [comment]
@hoheinzollern comments applied, they made the main proof a bit more readable, thank you!
